US07205296B2
To 3-(4-methoxybenzyl)6,7-difluor-2,3-dihydrobenzo[e][1,3]oxazin-4-one (1.15 g, 3.7 mmol) in dimethyl sulfoxide (10 mL) was added methyl amine (2.5 mL, 5 mmol, 2M solution in tetrahydrofuran) and the reaction heated to 120° C. for 1 hr. Water was added and product extracted with ethyl acetate, dried over anhydrous sodium sulfate and concentrated to give 1 g (85%) of 3-(4-methoxybenzyl)6-fluoro-7-(methylamino)2,3-dihydrobenzo[e][1,3]oxazin-4-one. RP-HPLC: 2.82 min; ES-MS (M+H)+=318.0; 1H-NMR (DMSO-d6) δ (ppm): 7.6 (d, 1), 6.8 (d, 2), 6.4 (d, 1H), 5.0 (s, 2), 4.6 (s, 2), 3.7 (s, 3), 2.8 (s, 3).

reactant | 3-(4-methoxybenzyl)6,7-difluor-2,3-dihydrobenzo[e][1,3]oxazin-4-one | 3.7 mmol, 1.15 g | COC1=CC=C(CN2COC3=C(C2=O)C=C(C(=C3)F)F)C=C1 | C16H13F2NO3
reactant | methyl amine | 5 mmol, 2M, 2.5 mL | CN | CH5N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 3-(4-methoxybenzyl)6-fluoro-7-(methylamino)2,3-dihydrobenzo[e][1,3]oxazin-4-one | 1 g, 85% | COC1=CC=C(CN2COC3=C(C2=O)C=C(C(=C3)NC)F)C=C1 | C17H17FN2O3
